US08466201B2
To a stirred solution of N-[2-(2-hydroxyethoxy)ethyl]-1-(2-nitrophenyl)-methanesulfonamide (0.145 g, 0.48 mmol) in methanol (10 ml) under an atmosphere of nitrogen was added 10% Pd/C (10 Wt %, 15 mg) in one portion. The reaction was evacuated, placed under an atmosphere of hydrogen (1 bar) and stirred vigorously overnight. The reaction was filtered through celite and the filtrate was concentrated in vacuo to afford 1-(2-aminophenyl)-N-[2-(2-hydroxyethoxy)ethyl]methanesulfonamide as product (0.105 g, 81%); LCMS Rt=2.06 min, m/z (APCI) 297 (M+Na).

reactant | N-[2-(2-hydroxyethoxy)ethyl]-1-(2-nitrophenyl)-methanesulfonamide | 0.48 mmol, 0.145 g | OCCOCCNS(=O)(=O)CC1=C(C=CC=C1)[N+](=O)[O-] | C11H16N2O6S
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 1-(2-aminophenyl)-N-[2-(2-hydroxyethoxy)ethyl]methanesulfonamide | NC1=C(C=CC=C1)CS(=O)(=O)NCCOCCO | C11H18N2O4S
